US07906537B2
13a N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-phenyl}-2-(4-chlorophenyl)-acetamide
2-Chloro-N(4)-(5-chloro-thiophen-2-ylmethyl)-N(4)-methyl-benzene-1,4-diamine (100 mg) was added to a solution of 4-chlorophenylacetyl chloride (69 mg) in dry acetonitrile (2 mL) in a rubber-capped glass vial. The reaction mixture was heated in a microwave device to 150° C. for 15 minutes. The reaction mixture was poured into saturated aqueous sodium bicarbonate (5 mL) and extracted with ethyl acetate (5 mL). The organic phase was washed with water (5 mL) and brine (5 mL), dried over sodium sulfate, filtered, and evaporated to dryness. The crude product was purified by flash chromatography (heptane/ethyl acetate, gradient) to furnish 25.2 mg title compound. Yield: 16%.

reactant | 2-Chloro-N(4)-(5-chloro-thiophen-2-ylmethyl)-N(4)-methyl-benzene-1,4-diamine | 100 mg | ClC1=C(C=CC(=C1)N(C)CC=1SC(=CC1)Cl)N | C12H12Cl2N2S
reactant | 4-chlorophenylacetyl chloride | 69 mg | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-{2-Chloro-4-[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-phenyl}-2-(4-chlorophenyl)-acetamide | 25.2 mg, Yield: 16% | ClC1=C(C=CC(=C1)N(C)CC=1SC(=CC1)Cl)NC(CC1=CC=C(C=C1)Cl)=O | C20H17Cl3N2OS
